US09260436B2
324 mg of t-butyl nitrite was added to a mixture of 506 mg of 4-amino-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline and 10 ml of DMF at 100° C., and the mixture was stirred at 100° C. for 45 minutes. Water was added to the cooled reaction mixture, and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 74 mg of 2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline (Compound of Present Invention 11).

reactant | t-butyl nitrite | 324 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-amino-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 506 mg | NC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=CC=C1)SCC | C17H14F3N3S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 74 mg | C(C)SC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=N1)C(F)(F)F | C17H13F3N2S
